US07161005B2
3.41 g (17.2 mmol) of manganese(II) chloride tetrahydrate and 98 g (0.93 mol) of diethanolamine are added in succession to a mixture of 2.14 g (8 mmol) of 4′-chloro-[2,2′;6′,2″]-terpyridine in 200 ml of methanol. The mixture is heated at reflux for 14 hours, cooled and concentrated. The residue so obtained is stirred in 250 ml of sodium hydroxide solution in acetonitrile/water 1:1 (v/v, pH>12) for 20 hours in air. Acetonitrile is removed using a rotary evaporator and the aqueous portion is extracted three times with chloroform. The organic extract is filtered over sodium sulfate and concentrated. Diethyl ether is added to the residue and the mixture is stirred and filtered, yielding 2-[(2-hydroxy-ethyl)-[2,2′;6′,2″]-terpyridin-4′-yl-amino]-ethanol in the form of a white solid. 1H-NMR (360 MHz, CD3OD): 3.76 (t, J=5.4 Hz, 4 H); 3.85 (t, J=5.4 Hz, 4H); 7.38–7.47 (tm, 2H); 7.69 (s, 2H); 7.94 (dt, J=8.1, 1.8 Hz, 2H); 8.53 (d, J=8.1 Hz, 2H); 8.58–8.65 (dm, 2H).

reactant | diethanolamine | 0.93 mol, 98 g | N(CCO)CCO | C4H11NO2
reactant | 4′-chloro-[2,2′;6′,2″]-terpyridine | 8 mmol, 2.14 g | ClC1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C15H10ClN3
solvent | methanol | 200 ml | CO | CH4O
solvent | sodium hydroxide | 250 ml | [OH-].[Na+]
solvent | acetonitrile water | pH>12 | C(C)#N.O
catalyst | manganese(II) chloride tetrahydrate | 17.2 mmol, 3.41 g | O.O.O.O.[Cl-].[Mn+2].[Cl-]
product | 2-[(2-hydroxy-ethyl)-[2,2′;6′,2″]-terpyridin-4′-yl-amino]-ethanol | OCCN(CCO)C1=CC(=NC(=C1)C1=NC=CC=C1)C1=NC=CC=C1 | C19H20N4O2
